US05350748
2-Propanethiol (0.8 mL, 8 mmol) is added to a solution of 3-chloro-5-(phenylmethoxy)benzo[b]thiophene-2-carboxamide (1.0 g, 3 mmol) and diazabicycloundecene (DBU) (2.6 mL, 17 mmol) in 10 mL of DMF and the mixture is warmed to 55° C. for 1 hour. The reaction mixture is allowed to cool and then poured into water and stirred. After 1 hour, the precipitate is filtered off, washed with water, and dried to provide 3-[(1-methylethyl)thio]-5-(phenylmethoxy)benzo[b]thiophene-2-carboxamide in 98% yield; mp=150°-152° C.

reactant | 2-Propanethiol | 8 mmol, 0.8 mL | CC(C)S | C3H8S
reactant | 3-chloro-5-(phenylmethoxy)benzo[b]thiophene-2-carboxamide | 3 mmol, 1.0 g | ClC=1C2=C(SC1C(=O)N)C=CC(=C2)OCC2=CC=CC=C2 | C16H12ClNO2S
reactant | diazabicycloundecene | 17 mmol, 2.6 mL | C1(=NNCCCCCCCC1)C1=CCCCCCCCCC1 | C20H36N2
reactant | water | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 3-[(1-methylethyl)thio]-5-(phenylmethoxy)benzo[b]thiophene-2-carboxamide | 98% yield | CC(C)SC=1C2=C(SC1C(=O)N)C=CC(=C2)OCC2=CC=CC=C2 | C19H19NO2S2
